US05274116
(±)-3-(Acetyloxy)-2-amino-N-1H-pyrrol-1-ylpropanamide
(±)-Phenylmethyl-[1-(acetyloxymethyl)-2-oxo-2-(1H-pyrrol-1-ylamino)ethyl]carbamate (4.18 g) was dissolved in 100 ml of methanol and 5% Pd/C (450 mg) was added. The solution was hydrogenated at atmospheric pressure and room temperature until absorption of 90% of the theoretical amount of hydrogen. The catalyst was removed by filtration and the filtrate was evaporated to dryness. The residue was purified by flash column chromatography (silica gel, ethyl acetate/methanol, 19:1) and the desired fractions combined and evaporated. Recrystallization of the residue from ethyl acetate/methanol/hexane afforded the product obtained as a powder (1.24 g), m.p. 147°-148° C.

reactant | (±)-Phenylmethyl-[1-(acetyloxymethyl)-2-oxo-2-(1H-pyrrol-1-ylamino)ethyl]carbamate | 4.18 g | C1(=CC=CC=C1)COC(NC(C(NN1C=CC=C1)=O)COC(C)=O)=O | C17H19N3O5
solvent | methanol | 100 ml | CO | CH4O
catalyst | Pd/C | 450 mg | [Pd] | Pd
product | (±)-3-(Acetyloxy)-2-amino-N-1H-pyrrol-1-ylpropanamide | 1.24 g | C(C)(=O)OCC(C(=O)NN1C=CC=C1)N | C9H13N3O3
